US04386073
Step 2: tert.-Butoxycarbonyl-L-norvalyl-L-methioninamide
1.81 g (5 mmoles) of BOC-Nva-Met-OMe are dissolved in 20 ml of methanol, and gaseous ammonia is introduced into the solution for 0.5 hours under ice cooling. The reaction mixture is allowed to stand at room temperature overnight, and then stored in a cold place for some hours. The separated crystalline product is filtered off to obtain 1.27 g of the desired product. The filtrate is evaporated, and the residue is recrystallized from 5 ml of ethanol to obtain further 0.35 g of the product. Thus 1.62 g (93%) of BOC-Nva-Met-NH2 are obtained; m.p.: 166°-167° C., Rf2 =0.57, [α]D25 =-40.9° (c=1%, in methanol).

reactant | BOC-Nva-Met-OMe | 5 mmoles, 1.81 g | N([C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)OC)C(=O)OC(C)(C)C | C16H30N2O5S
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | tert.-Butoxycarbonyl-L-norvalyl-L-methioninamide | 1.27 g | C(C)(C)(C)OC(=O)N[C@@H](CCC)C(=O)N[C@@H](CCSC)C(=O)N | C15H29N3O4S
